US07179912B2
2-Hydrazonomethyl-5-morpholin-4-yl-phenol
A solution of 2-hydroxy-4-morpholin-4-yl-benzaldehyde (0.135 g, 0.65 mmol) in pyridine (5 mL) was treated with hydrazine hydrate (33 mg, 0.65 mmol) and stirred for 3 h at room temperature. The reaction mixture was concentrated in vacuo and the residue was partitioned between EtOAc and 5% sodium bicarbonate. The organic layer was dried over Na2SO4 and concentrated in vacuo to afford the product as a pale yellow solid (96 mg, 67%)

reactant | 2-hydroxy-4-morpholin-4-yl-benzaldehyde | 0.65 mmol, 0.135 g | OC1=C(C=O)C=CC(=C1)N1CCOCC1 | C11H13NO3
reactant | hydrazine hydrate | 0.65 mmol, 33 mg | O.NN
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 2-Hydrazonomethyl-5-morpholin-4-yl-phenol | 96 mg, 67% | N(N)=CC1=C(C=C(C=C1)N1CCOCC1)O | C11H15N3O2
